US07094769B2
(2R,3R,4S,5S)-4-(Benzoyloxy)-2-(6-{[2.2-bis(3-methylphenyl)ethyl]amino}-2-iodo-9H-purin-9-yl)-5-[(ethylamino)carbonyl]tetrahydro-3-furanyl benzoate
A solution of ((2R,3R,4S,5S)-4-(benzoyloxy)-2-(6-chloro-2-iodo-9H-purin-9-yl)-5-[(ethylamino)carbonyl]-tetrahydro-3-furanyl benzoate (Preparation 47) (0.6 g, 0.91 mmol) and 2,2-bis(3-methylphenyl)ethylamine (0.3 g, 1.36 mmol) in isopropanol (20 ml) was stirred at room temperature for 48 hours. Solvent was removed under reduced pressure and the residue purified by column chromatography on silica gel eluting with dichloromethane:methanol (99:1, by volume) to afford the title compound as a beige foam (0.67 g, 87%).

reactant | (2R,3R,4S,5S)-4-(benzoyloxy)-2-(6-chloro-2-iodo-9H-purin-9-yl)-5-[(ethylamino)carbonyl]-tetrahydro-3-furanyl benzoate | 0.91 mmol, 0.6 g | C(C1=CC=CC=C1)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(C1=CC=CC=C1)=O)C(=O)NCC)N1C2=NC(=NC(=C2N=C1)Cl)I | C26H21ClIN5O6
reactant | 2,2-bis(3-methylphenyl)ethylamine | 1.36 mmol, 0.3 g | CC=1C=C(C=CC1)C(CN)C1=CC(=CC=C1)C | C16H19N
solvent | isopropanol | 20 ml | C(C)(C)O | C3H8O
product | (2R,3R,4S,5S)-4-(Benzoyloxy)-2-(6-{[2.2-bis(3-methylphenyl)ethyl]amino}-2-iodo-9H-purin-9-yl)-5-[(ethylamino)carbonyl]tetrahydro-3-furanyl benzoate | 0.67 g, 87% | C(C1=CC=CC=C1)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(C1=CC=CC=C1)=O)C(=O)NCC)N1C2=NC(=NC(=C2N=C1)NCC(C1=CC(=CC=C1)C)C1=CC(=CC=C1)C)I | C42H39IN6O6
